US07351778B2
Preparation of ethyl 3-benzoyloxycaproate
Preparation of ethyl 3-benzoyloxycaproate Ethyl 3-benzoyloxycaproate was prepared following the procedure as described in step 2) of Preparation Example 2, except for that ethyl 3-hydroxycaproate was used to replace for ethyl 3-hydroxybutyrate. Yield 81.5%.

reactant | ethyl 3-benzoyloxycaproate Ethyl 3-benzoyloxycaproate | C(C)OC(CC(CCC)OC(C1=CC=CC=C1)=O)=O.C(C1=CC=CC=C1)(=O)OC(CC(=O)OCC)CCC | 2C15H20O4
reactant | ethyl 3-hydroxycaproate | OC(CC(=O)OCC)CCC | C8H16O3
reactant | ethyl 3-hydroxybutyrate | OC(CC(=O)OCC)C | C6H12O3
product | ethyl 3-benzoyloxycaproate | Yield 81.5% | C(C1=CC=CC=C1)(=O)OC(CC(=O)OCC)CCC | C15H20O4
